Data/regression/rad6re/fold_0/aam_train.csv
AAM,dh
[C:6][C:7]([H:8])([H:9])[O:10][C:11]([H:12])([H:13])[H:14].[H:1][C:2]=[C:3]([H:4])[H:5]>>[H:1][C:2][C:3]([H:4])([H:5])[C:6][C:7]([H:8])([H:9])[O:10][C:11]([H:12])([H:13])[H:14],-0.4781506325199999
[H:1][C:2]=[C:3]([H:4])[C:5]([H:6])([H:7])[C:8][O:9][C:10]([H:11])[H:12]>>[C:10]([H:11])[H:12].[H:1][C:2]=[C:3]([H:4])[C:5]([H:6])([H:7])[C:8]=[O:9],2.19624524803
[C:11][H:12].[O:1]=[C:2]([H:3])[O:4][C:5]([H:6])([H:7])[C:8]([H:9])[H:10]>>[O:1]=[C:2]([H:3])[O:4][C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[C:11][H:12],-4.9638352366500005
[C:1]=[C:2]([O:3][H:4])[O:5][C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[H:12]>>[C:1]#[C:2][O:3][H:4].[O:5][C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[H:12],2.53102917703
[C:1]=[C:2]([C:3]([H:4])([H:5])[H:6])[C:7]([H:8])[O:9][C:10][H:11]>>[C:1]=[C:2]([C:3]([H:4])([H:5])[H:6])[C@@:7]1([H:8])[O:9][C:10]1[H:11],-1.4135952792
[O:1]=[C:2][C@:3]([H:4])([C:5]#[C:6][H:7])[O:8][H:9]>>[C:2]=[O:8].[O:1]([C:3]([H:4])[C:5]#[C:6][H:7])[H:9],-0.11397747609000003
[H:1][C:2]([O:3][C:4][O:5][C:6]([H:7])([H:8])[H:9])[C:10]([H:11])([H:12])[H:13]>>[C:2]([O:3][C:4][O:5][C:6]([H:7])([H:8])[H:9])[C:10]([H:11])([H:12])[H:13].[H:1],4.3735614079400005
[H:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[C:9](=[C:10]([H:11])[H:12])[C:13]([H:14])([H:15])[H:16]>>[H:16].[H:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[C:9](=[C:10]([H:11])[H:12])[C:13]([H:14])[H:15],3.94599038413
[C:5][H:6].[O:1][C:2](=[C:3]=[O:4])[C:7]([H:8])([H:9])[H:10]>>[O:1]=[C:2]([C:3][O:4][C:5][H:6])[C:7]([H:8])([H:9])[H:10],-2.55528011119
[C:8]([H:9])=[C:10]([H:11])[H:12].[H:1][C:2]([H:3])[O:4][C:5]#[C:6][H:7]>>[H:1][C:2]([H:3])[O:4]/[C:5]=[C:6](\[H:7])[C:8]([H:9])=[C:10]([H:11])[H:12],-2.91213567586
[H:1][C:2]/[C:3]([H:4])=[C:5](\[O:6][C:7]([H:8])[H:9])[C:10]([H:11])([H:12])[H:13]>>[C:5]([O:6][C:7]([H:8])[H:9])[C:10]([H:11])([H:12])[H:13].[H:1][C:2]#[C:3][H:4],1.18073719908
[H:1][C:2]([C:3]([H:4])([H:5])[H:6])[C:7]([H:8])([H:9])[C:10](=[C:11]([H:12])[H:13])[C:14]([H:15])([H:16])[H:17]>>[H:17].[H:1][C:2]([C:3]([H:4])([H:5])[H:6])[C:7]([H:8])([H:9])[C:10](=[C:11]([H:12])[H:13])[C:14]([H:15])[H:16],3.93379023389
[C:3]#[C:4][O:5][C:6]([H:7])([H:8])[H:9].[O:1]=[C:2]>>[O:1]=[C:2]=[C:3][C:4][O:5][C:6]([H:7])([H:8])[H:9],-2.66024664567
[C:5]([C:6]([H:7])([H:8])[H:9])([C:10]([H:11])([H:12])[H:13])[C:14]([H:15])([H:16])[H:17].[H:1][C:2]#[C:3][H:4]>>[H:1][C:2]=[C:3]([H:4])[C:5]([C:6]([H:7])([H:8])[H:9])([C:10]([H:11])([H:12])[H:13])[C:14]([H:15])([H:16])[H:17],-1.1079767177700002
[C:1]#[C:2][C@:3]([H:4])([O:5][O:6][H:7])[C:8]([H:9])([H:10])[H:11]>>[C:1]#[C:2][C@@:3]([H:4])([O:5])[C:8]([H:9])([H:10])[H:11].[O:6][H:7],3.13200521288
[H:1][O:2][C:3][C@:4]([H:5])([O:6][H:7])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14]>>[H:1].[O:2]=[C:3][C@@:4]([H:5])([O:6][H:7])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14],1.82919304084
[O:1]=[C:2]([C:3]([O:4][H:5])[C:6]([H:7])([H:8])[H:9])[C:10]([H:11])([H:12])[H:13]>>[C:10]([H:11])([H:12])[H:13].[O:1]=[C:2]=[C:3]([O:4][H:5])[C:6]([H:7])([H:8])[H:9],2.67885638713
[H:1][C:2]#[C:3][O:4][C:5]([H:6])([H:7])[O:8][H:9]>>[C:5]([H:6])([H:7])[O:8][H:9].[H:1][C:2]#[C:3][O:4],2.11337311225
[H:1][C:2]=[C:3]([O:4][O:5][H:6])[C:7]([H:8])([H:9])[H:10]>>[H:1][C:2]=[C:3]([O:4][O:5])[C:7]([H:8])([H:9])[H:10].[H:6],3.76766524428
[C:5]([H:6])[O:7][C:8]([H:9])[H:10].[O:1][C:2]#[C:3][H:4]>>[O:1]=[C:2]/[C:3]([H:4])=[C:5](\[H:6])[O:7][C:8]([H:9])[H:10],-4.08739394501
[H:1][O:2]/[C:3]([H:4])=[C:7](\[H:8])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15].[O:5][H:6]>>[H:1][O:2][C:3]([H:4])([O:5][H:6])[C:7]([H:8])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15],-2.9416194205799995
[O:1]=[C:2][H:3].[O:4][C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[H:11]>>[O:1]=[C:2]([H:3])[O:4][C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[H:11],-4.46556592374
[C:1]#[C:2][O:3][C:4][C:5]([H:6])[C:7]([H:8])([H:9])[H:10]>>[C:1]#[C:2][O:3][C:4]#[C:5][H:6].[C:7]([H:8])([H:9])[H:10],2.43273707112
[H:1][C:2]/[C:3](=[C:4](/[H:5])[O:6][H:7])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14]>>[H:1][C:2][C:3](=[C:4][H:5])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14].[O:6][H:7],5.95777422685
[H:14].[H:1][C:2]([H:3])=[C:4]([H:5])[O:6][C:7]([H:8])([H:9])[C:10]([H:11])=[C:12][H:13]>>[H:1][C:2]([H:3])=[C:4]([H:5])[O:6][C:7]([H:8])([H:9])[C:10]([H:11])=[C:12]([H:13])[H:14],-5.03423682554
[C:1]/[C:2]([O:3][H:4])=[C:5](\[H:6])[O:7][H:8]>>[C:1].[C:2](\[O:3][H:4])=[C:5](\[H:6])[O:7][H:8],5.22935401373
[O:1]=[C:2]([H:3])[O:4][C:5]=[C:6]([H:7])[H:8]>>[H:8].[O:1]=[C:2]([H:3])[O:4][C:5]#[C:6][H:7],2.37890434282
[H:1][O:2][C:3]([C:4]([H:5])([H:6])[H:7])[C:8]([H:9])([C:10]([H:11])([H:12])[H:13])[C:14]([H:15])([H:16])[H:17]>>[C:8]([H:9])([C:10]([H:11])([H:12])[H:13])[C:14]([H:15])([H:16])[H:17].[H:1][O:2][C:3][C:4]([H:5])([H:6])[H:7],3.1706987416100003
[H:1][O:2][C:3](=[C:4]([H:5])[H:6])[C:7]([H:8])([H:9])[C:10]([H:11])[C:12]([H:13])([H:14])[H:15]>>[H:11].[H:1][O:2][C:3](=[C:4]([H:5])[H:6])[C:7]([H:8])([H:9])[C:10][C:12]([H:13])([H:14])[H:15],4.56841117115
